US06037342
2-(4-Piperidyl)benzoxazole
2-Aminophenol (200 mg) and 4-piperidinecarboxylic acid (236 mg) were mixed with polyphosphoric acid (1 g) and stirred with heating at 180° C. for 2 hours. After cooling to room temperature, the reaction was stopped by adding water. The filtrate was adjusted to pH 12 with 50% potassium hydroxide aqueous solution and then extracted with methylene chloride. The organic layer was washed with saturated brine and dried with magnesium sulfate, and then the solvent was evaporated under a reduced pressure to obtain the title compound 2-(4-piperidyl)benzoxazole (311.5 mg).

reactant | 2-Aminophenol | 200 mg | NC1=C(C=CC=C1)O | C6H7NO
reactant | 4-piperidinecarboxylic acid | 236 mg | N1CCC(CC1)C(=O)O | C6H11NO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | O | H2O
product | 2-(4-piperidyl)benzoxazole | 311.5 mg | N1CCC(CC1)C=1OC2=C(N1)C=CC=C2 | C12H14N2O
